US07763657B2
Step 3: 3-(4-tert-Butyl-2-isopropylaminophenyl)acrylic acid
3-(4-tert-butyl-2-isopropylaminophenyl)acrylic acid methyl ester (0.14 mmol, 37.7 mg) and NaOH (0.68 mmol, 27.39 mg) were added in methanol and water. The reaction mixture was stirred for 12 hrs at room temperature. The reaction mixture was acidified with 5% HCl solution. The mixture was concentrated in vacuo to yield a yellow solid (36.56 mg, 100%).

reactant | 3-(4-tert-butyl-2-isopropylaminophenyl)acrylic acid methyl ester | 0.14 mmol, 37.7 mg | COC(C=CC1=C(C=C(C=C1)C(C)(C)C)NC(C)C)=O | C17H25NO2
reactant | NaOH | 0.68 mmol, 27.39 mg | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-(4-tert-Butyl-2-isopropylaminophenyl)acrylic acid | 36.56 mg, 100% | C(C)(C)(C)C1=CC(=C(C=C1)C=CC(=O)O)NC(C)C | C16H23NO2
